* File: AND2X1.pex.netlist
* Created: Wed Jan  2 18:23:33 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt AND2X1  A B VDD GND Y
* 
MM3 a_9_6# A a_2_6# GND NMOS_VTL L=5e-08 W=5e-07
MM4 GND B a_9_6# GND NMOS_VTL L=5e-08 W=5e-07
MM5 Y a_2_6# GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM0 a_2_6# A VDD VDD PMOS_VTL L=5e-08 W=5e-07
MM1 VDD B a_2_6# VDD PMOS_VTL L=5e-08 W=5e-07
MM2 Y a_2_6# VDD VDD PMOS_VTL L=5e-08 W=5e-07
c_5 A 0 0.103545f
c_10 B 0 0.0927726f
c_16 a_2_6# 0 0.166441f
c_21 VDD 0 0.141663f
c_26 GND 0 0.127034f
c_30 Y 0 0.0559375f
*
*.include "AND2X1.pex.netlist.AND2X1.pxi"
*
.ends
*
*
